US04003909
a. 5-Phenyl-3-(4-nitrophenyl)-1,2,4-oxadiazole
A solution of 10.8 g. (0.06 mole) of p-nitrobenzamidoxime and 8.5 g. (0.06 mole) of benzoyl chloride in 250 ml. of dioxane is heated on a steam bath for one hour, followed by the addition of 2 ml. of BF3 -Et2O. After refluxing the solution overnight, the reaction mixture is cooled and the material which precipitates is collected by filtration to yield 8.1 g. (50%) of 5-phenyl-3-(4-nitrophenyl)-1,2,4-oxadizole.

reactant | p-nitrobenzamidoxime | 0.06 mole | [N+](=O)([O-])C1=CC=C(C(N)=NO)C=C1 | C7H7N3O3
reactant | benzoyl chloride | 0.06 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | BF3 Et2O | B(F)(F)F.CCOCC
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Phenyl-3-(4-nitrophenyl)-1,2,4-oxadiazole | C1(=CC=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H9N3O3
